US07915261B2
An aqueous 1 M sodium hydroxide solution (0.45 ml) was added to a THF (5 ml) solution of methyl 5-{[(4-{2-[1-(6-methylpyridin-2-yl)piperidin-4-yl]ethyl}piperidin-1-yl)carbonyl]oxy}nicotinate (208 mg), followed by stirring overnight at room temperature. The reaction liquid was concentrated to obtain sodium 5-{[(4-{2-[1-(6-methylpyridin-2-yl)piperidin-4-yl]ethyl}piperidin-1-yl)carbonyl]oxy}nicotinate (158 mg).

reactant | sodium hydroxide | 1 M, 0.45 ml | [OH-].[Na+]
reactant | methyl 5-{[(4-{2-[1-(6-methylpyridin-2-yl)piperidin-4-yl]ethyl}piperidin-1-yl)carbonyl]oxy}nicotinate | 208 mg | CC1=CC=CC(=N1)N1CCC(CC1)CCC1CCN(CC1)C(=O)OC=1C=NC=C(C(=O)OC)C1 | C26H34N4O4
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | sodium 5-{[(4-{2-[1-(6-methylpyridin-2-yl)piperidin-4-yl]ethyl}piperidin-1-yl)carbonyl]oxy}nicotinate | 158 mg | CC1=CC=CC(=N1)N1CCC(CC1)CCC1CCN(CC1)C(=O)OC=1C=NC=C(C(=O)[O-])C1.[Na+] | InChI=1S/C25H32N4O4.Na/c1-18-3-2-4-23(27-18)28-11-7-19(8-12-28)5-6-20-9-13-29(14-10-20)25(32)33-22-15-21(24(30)31)16-26-17-22;/h2-4,15-17,19-20H,5-14H2,1H3,(H,30,31);/q;+1/p-1
